* This library consists of lossy transmission line models.
*
* These models are mainly for transient analysis as they
* don't represent the frequency dependence that is needed for
* the attenuation vs. frequency characteristic. They may still be
* used in AC analysis, but won't realistically predict the attenuation
* except at one frequency.
*
* The input parameters for these models is the frequency in Hz
* and the actual length of the wire that is desired.
* The default for attenuation is shown below with each model and includes
* the unit of length used, and the default length is equal to 1.
*
* These parameters were taken from the "Handbook of Electronics
* Calculations For Engineers and Technicians" by Kaufman and
* Seidman, Second Edition, McGraw Hill.
* 
* The calculations below are in feet, so the velocity is taken as 9.82e8ft/s

* RG-6A/U cable type: 75ohms, 66% velocity of propogation
* default 2.9dB/100ft @ 100MHz
.subckt RG6AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.008, 50Meg,.014, 100Meg,.029, 
+        200Meg,.043, 400Meg,.064, 1G,.11)}

T1 AP AN BP BN RG6A

.model RG6A TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-6/U cable type: 75ohms, 78% velocity of propogation
* default 2.1dB/100ft @ 100MHz
.subckt RG6U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0062, 50Meg,.015, 100Meg,.021, 
+        200Meg,.031, 400Meg,.044, 1G,.071)}

T1 AP AN BP BN RG6

.model RG6 TRN (len={length} r={(atten/8.686)*2*75}
+                c=17.4p     l=98.0n)
.ends

* RG-8/U cable type: 52ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG8U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG8

.model RG8 TRN (len={length} r={(atten/8.686)*2*52}
+                c=29.7p     l=80.2n)
.ends

* RG-8A/U cable type: 52ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG8AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG8A

.model RG8A TRN (len={length} r={(atten/8.686)*2*52}
+                c=29.7p     l=80.2n)
.ends

* RG-8/U+ cable type: 50ohms, 78% velocity of propogation
* default 1.8dB/100ft @ 100MHz
.subckt RG8U+ AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0049, 50Meg,.012, 100Meg,.018, 
+        200Meg,.026, 400Meg,.038, 1G,.062, 3G,.113)}

T1 AP AN BP BN RG8+

.model RG8+ TRN (len={length} r={(atten/8.686)*2*50}
+                c=26.1p     l=65.3n)
.ends

* RG-9B/U cable type: 50ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG9BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG9B

.model RG9B TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-11/U cable type: 75ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG11U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG11

.model RG11 TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-11A/U cable type: 75ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG11AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG11A

.model RG11A TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-11/U+ cable type: 75ohms, 78% velocity of propogation
* default 1.5dB/100ft @ 100MHz
.subckt RG11U+ AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0041, 50Meg,.01, 100Meg,.015, 
+        200Meg,.022, 400Meg,.033, 1G,.056, 3G,.109)}

T1 AP AN BP BN RG11+

.model RG11+ TRN (len={length} r={(atten/8.686)*2*75}
+                c=17.4p     l=98.0n)
.ends

* RG-12A/U cable type: 75ohms, 66% velocity of propogation
* default 2.15dB/100ft @ 100MHz
.subckt RG12AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0065, 50Meg,.015, 100Meg,.0215, 
+        200Meg,.032, 400Meg,.047, 1G,.082, 3G,.18)}

T1 AP AN BP BN RG12

.model RG12 TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-22B/U cable type: 95ohms, 66% velocity of propogation
* default 4.2dB/100ft @ 100MHz
.subckt RG22BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.012, 50Meg,.028, 100Meg,.042, 
+        200Meg,.063, 400Meg,.095)}

T1 AP AN BP BN RG22B

.model RG22B TRN (len={length} r={(atten/8.686)*2*95}
+                c=16.2p     l=147.0n)
.ends

* RG-55/U cable type: 53.5ohms, 66% velocity of propogation
* default 4.3dB/100ft @ 100MHz
.subckt RG55U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0135, 50Meg,.03, 100Meg,.043, 
+        200Meg,.06, 400Meg,.088, 1G,.165)}

T1 AP AN BP BN RG55

.model RG55 TRN (len={length} r={(atten/8.686)*2*53.5}
+                c=28.8p     l=82.7n)
.ends

* RG-55B/U cable type: 53.5ohms, 66% velocity of propogation
* default 4.3dB/100ft @ 100MHz
.subckt RG55BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0135, 50Meg,.03, 100Meg,.043, 
+        200Meg,.06, 400Meg,.088, 1G,.165)}

T1 AP AN BP BN RG55B

.model RG55B TRN (len={length} r={(atten/8.686)*2*53.5}
+                c=28.8p     l=82.7n)
.ends

* RG-58/U cable type: 53.5ohms, 66% velocity of propogation
* default 4.6dB/100ft @ 100MHz
.subckt RG58U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.012, 50Meg,.031, 100Meg,.046, 
+        200Meg,.07, 400Meg,.1, 1G,.175)}

T1 AP AN BP BN RG58

.model RG58 TRN (len={length} r={(atten/8.686)*2*53.5}
+                c=28.8p     l=82.7n)
.ends

* RG-58A/U cable type: 50ohms, 66% velocity of propogation
* default 4.9dB/100ft @ 100MHz
.subckt RG58AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.014, 50Meg,.033, 100Meg,.049, 
+        200Meg,.073, 400Meg,.11, 1G,.2)}

T1 AP AN BP BN RG58A

.model RG58A TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-58C/U cable type: 50ohms, 66% velocity of propogation
* default 4.9dB/100ft @ 100MHz
.subckt RG58CU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.014, 50Meg,.033, 100Meg,.049, 
+        200Meg,.073, 400Meg,.11, 1G,.2)}

T1 AP AN BP BN RG58C

.model RG58C TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-58/U+ cable type: 50ohms, 78% velocity of propogation
* default 4.8dB/100ft @ 100MHz
.subckt RG58U+ AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.012, 50Meg,.031, 100Meg,.048, 
+        200Meg,.069, 400Meg,.101, 1G,.18)}

T1 AP AN BP BN RG58+

.model RG58+ TRN (len={length} r={(atten/8.686)*2*50}
+                c=26.1p     l=65.3n)
.ends

* RG-59/U cable type: 75ohms, 66% velocity of propogation
* default 3.3dB/100ft @ 100MHz
.subckt RG59U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.011, 50Meg,.023, 100Meg,.033, 
+        200Meg,.047, 400Meg,.067, 1G,.115)}

T1 AP AN BP BN RG59

.model RG59 TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-59B/U cable type: 75ohms, 66% velocity of propogation
* default 3.3dB/100ft @ 100MHz
.subckt RG59BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.011, 50Meg,.023, 100Meg,.033, 
+        200Meg,.047, 400Meg,.067, 1G,.115)}

T1 AP AN BP BN RG59B

.model RG59B TRN (len={length} r={(atten/8.686)*2*75}
+                c=20.6p     l=115.6n)
.ends

* RG-59/U+ cable type: 78ohms, 78% velocity of propogation
* default 2.9dB/100ft @ 100MHz
.subckt RG59U+ AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0095, 50Meg,.021, 100Meg,.029, 
+        200Meg,.041, 400Meg,.066, 1G,.11)}

T1 AP AN BP BN RG59+

.model RG59+ TRN (len={length} r={(atten/8.686)*2*78}
+                c=16.7p     l=102.1n)
.ends

* RG-62/U cable type: 93ohms, 84% velocity of propogation
* default 2.8dB/100ft @ 100MHz
.subckt RG62U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.009, 50Meg,.019, 100Meg,.028, 
+        200Meg,.037, 400Meg,.058, 1G,.085)}

T1 AP AN BP BN RG62

.model RG62 TRN (len={length} r={(atten/8.686)*2*93}
+                c=13.0p     l=113.1n)
.ends

* RG-62A/U cable type: 93ohms, 84% velocity of propogation
* default 2.8dB/100ft @ 100MHz
.subckt RG62AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.009, 50Meg,.019, 100Meg,.028, 
+        200Meg,.037, 400Meg,.058, 1G,.085)}

T1 AP AN BP BN RG62A

.model RG62A TRN (len={length} r={(atten/8.686)*2*93}
+                c=13.0p     l=113.1n)
.ends

* RG-63B/U cable type: 125ohms, 84% velocity of propogation
* default 1.5dB/100ft @ 100MHz
.subckt RG63BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.005, 50Meg,.011, 100Meg,.015, 
+        200Meg,.023, 400Meg,.034, 1G,.057)}

T1 AP AN BP BN RG63B

.model RG63B TRN (len={length} r={(atten/8.686)*2*125}
+                c=9.7p     l=151.5n)
.ends

* RG-71B/U cable type: 93ohms, 84% velocity of propogation
* default 2.8dB/100ft @ 100MHz
.subckt RG71BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.009, 50Meg,.019, 100Meg,.028, 
+        200Meg,.037, 400Meg,.058, 1G,.085, 3G,.186)}

T1 AP AN BP BN RG71B

.model RG71B TRN (len={length} r={(atten/8.686)*2*93}
+                c=13.0p     l=113.1n)
.ends

* RG-174/U cable type: 50ohms, 66% velocity of propogation
* default 8.9dB/100ft @ 100MHz
.subckt RG174U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.038, 50Meg,.065, 100Meg,.089, 
+        200Meg,.12, 400Meg,.175, 1G,.31)}

T1 AP AN BP BN RG174

.model RG174 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-178B/U cable type: 50ohms, 70% velocity of propogation
* default 13.3dB/100ft @ 100MHz
.subckt RG178BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.053, 50Meg,.1, 100Meg,.133, 
+        200Meg,.2, 400Meg,.275, 1G,.45)}

T1 AP AN BP BN RG178B

.model RG178B TRN (len={length} r={(atten/8.686)*2*50}
+                c=29.1p     l=72.7n)
.ends

* RG-179B/U cable type: 75ohms, 70% velocity of propogation
* default 9.8dB/100ft @ 100MHz
.subckt RG179BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.05, 50Meg,.079, 100Meg,.098, 
+        200Meg,.127, 400Meg,.158, 1G,.25)}

T1 AP AN BP BN RG179B

.model RG179B TRN (len={length} r={(atten/8.686)*2*75}
+                c=19.4p     l=109.1n)
.ends

* RG-180B/U cable type: 93ohms, 70% velocity of propogation
* default 5.1dB/100ft @ 100MHz
.subckt RG180BU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.031, 50Meg,.042, 100Meg,.051, 
+        200Meg,.073, 400Meg,.104, 1G,.165)}

T1 AP AN BP BN RG180B

.model RG180B TRN (len={length} r={(atten/8.686)*2*93}
+                c=15.6p     l=135.7n)
.ends

* RG-187A/U cable type: 75ohms, 70% velocity of propogation
* default 9.8dB/100ft @ 100MHz
.subckt RG187AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.05, 50Meg,.079, 100Meg,.098, 
+        200Meg,.127, 400Meg,.158, 1G,.25)}

T1 AP AN BP BN RG187A

.model RG187A TRN (len={length} r={(atten/8.686)*2*75}
+                c=19.4p     l=109.1n)
.ends

* RG-188A/U cable type: 50ohms, 70% velocity of propogation
* default 13.3dB/100ft @ 100MHz
.subckt RG188AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.038, 50Meg,.079, 100Meg,.115, 
+        200Meg,.15, 400Meg,.2, 1G,.3, 3G,.58)}

T1 AP AN BP BN RG188A

.model RG188A TRN (len={length} r={(atten/8.686)*2*50}
+                c=29.1p     l=72.7n)
.ends

* RG-195A/U cable type: 95ohms, 70% velocity of propogation
* default 5.1dB/100ft @ 100MHz
.subckt RG195AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.031, 50Meg,.042, 100Meg,.051, 
+        200Meg,.073, 400Meg,.104, 1G,.165)}

T1 AP AN BP BN RG195A

.model RG195A TRN (len={length} r={(atten/8.686)*2*95}
+                c=15.3p     l=138.3n)
.ends

* RG-196A/U cable type: 50ohms, 70% velocity of propogation
* default 13.3dB/100ft @ 100MHz
.subckt RG196AU AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.053, 50Meg,.1, 100Meg,.133, 
+        200Meg,.2, 400Meg,.275, 1G,.45)}

T1 AP AN BP BN RG196A

.model RG196A TRN (len={length} r={(atten/8.686)*2*50}
+                c=29.1p     l=72.7n)
.ends

* RG-212/U cable type: 50ohms, 66% velocity of propogation
* default 2.4dB/100ft @ 100MHz
.subckt RG212U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0065, 50Meg,.016, 100Meg,.024, 
+        200Meg,.036, 400Meg,.052, 1G,.088, 3G,.167)}

T1 AP AN BP BN RG212

.model RG212 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-213/U cable type: 50ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG213U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG213

.model RG213 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-214/U cable type: 50ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG214U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG214

.model RG214 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-215/U cable type: 50ohms, 66% velocity of propogation
* default 2.2dB/100ft @ 100MHz
.subckt RG215U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0066, 50Meg,.015, 100Meg,.022, 
+        200Meg,.032, 400Meg,.046, 1G,.09, 3G,.19)}

T1 AP AN BP BN RG215

.model RG215 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-217/U cable type: 50ohms, 66% velocity of propogation
* default 1.4dB/100ft @ 100MHz
.subckt RG217U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0041, 50Meg,.01, 100Meg,.014, 
+        200Meg,.021, 400Meg,.031, 1G,.058, 3G,.13)}

T1 AP AN BP BN RG217

.model RG217 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-218/U cable type: 50ohms, 66% velocity of propogation
* default .81dB/100ft @ 100MHz
.subckt RG218U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0023, 50Meg,.0056, 100Meg,.0081, 
+        200Meg,.012, 400Meg,.019, 1G,.038, 3G,.09)}

T1 AP AN BP BN RG218

.model RG218 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-219/U cable type: 50ohms, 66% velocity of propogation
* default .81dB/100ft @ 100MHz
.subckt RG219U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0023, 50Meg,.0056, 100Meg,.0081, 
+        200Meg,.012, 400Meg,.019, 1G,.038, 3G,.09)}

T1 AP AN BP BN RG219

.model RG219 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

* RG-223/U cable type: 50ohms, 66% velocity of propogation
* default 4.3dB/100ft @ 100MHz
.subckt RG223U AP AN BP BN
+ params: freq=100MEG length=1
+ atten={table(freq, 10Meg,.0135, 50Meg,.03, 100Meg,.043, 
+        200Meg,.06, 400Meg,.088, 1G,.165)}

T1 AP AN BP BN RG223

.model RG223 TRN (len={length} r={(atten/8.686)*2*50}
+                c=30.9p     l=77.0n)
.ends

